Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Nothing is helping."
 
Major Surgical or Invasive Procedure:
ECT s/p 3 treatments 
 
History of Present Illness:
Ms. ___ is a ___ y/o female with history of major depressive 
disorder previously treated with ECT (___) and mild 
cognitive impairment (recent dx via neuropsych testing) who 
presented to ___ ED with her daughter for evaluation of 
worsening depression. 
. 
On interview, patient reports that her depression has been going 
on for the last ___ years, and that it has been a steady 
decline since retiring in ___. She describes her symptoms as 
"emptiness," "high anxiety" for which she takes Ativan 2x/day, 
feeling irritable, and being unsure of what to do. She also 
describes lack of interest in any of the things she used to 
enjoy doing, such as cooking and gardening. Other symptoms 
include low energy, pacing, and "looking for something to do." 
Difficulty with short-term memory and forgetfulness are 
additional complaints. She endorses that she sleeps 6 hours a 
night, though that her sleep is often interrupted by frequent 
awakenings. Appetite has been stable and that she has perhaps 
gained some weight. Patient is currently living in an assisted 
living facility since moving to the ___ area from the ___ 
area 7 months ago so that she can be close to her daughter. The 
assisted living facility prepares the patient's meals for her 
and the patient has no problem taking care of herself. She 
reports that nothing is helping at this point and that she feels 
she needs to be hospitalized. She denies any recent stressors 
that led her to come to the emergency room today. She denies any 
thoughts of wanting to die but notes that "it has been difficult 
to live like this." She denies hallucinations, paranoia, and 
symptoms of
mania.
. 
Of note, patient recently had neuropsychological testing at 
___ after being referred by her psychiatrist, Dr. ___ 
___, to evaluate for acquired neurocognitive disorder verses 
mood-related cognitive concerns. During the evaluation, patient 
endorsed difficulty with reading, remembering names, poor 
short-term memory, and misplacing items. She also reported 
concurrent loss of interest in activities such as yoga, 
gardening, cooking, and reading, though the mood symptoms had 
started following her retirement in ___. Neuropsychological 
testing suggested impairment in frontal systems and, as in the 
setting of lack of significant changes in ADLs, indicated mild 
neurocognitive disorder with contribution of lifelong anxiety 
and moderate
depression.
. 
When asked, patient is not sure what has been helpful to her in 
the past, whether it's been ECT or a specific medication. She 
and her daughter strongly feel that she needs to be admitted to 
an inpatient unit for more intensive work-up and treatment.
. 
MEDICAL ROS:
All negative on a 10-point ROS including no fever, HA, eye pain, 
hearing deficit, chest pain, difficulty breathing, abdominal 
pain, constipation, diarrhea, musculoskeletal pain
. 
COLLATERAL: ___ (___): Endorses patient's 
story as
above, and feels that perhaps decline is related to psychiatrist 
being on vacation for the last 3 weeks in addition to finding 
out that her group therapy sessions will not be going on during 
the month of ___. She is also unable to discern what had been 
helpful to patient in the past, though did feel like her mother 
was doing better this past ___ prior to recent decline.
. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Sx/Dx: Major depressive disorder - had one bout in her ___,
though recovered without medications. Depression re-emerged in
___ after retirement, which was when patient started 
psychiatric
medications. Also diagnosis of generalized anxiety disorder.
Hospitalizations: 3 lifetime hospitalizations, all in 
___.
One hospitalization was for ECT (had 10 treatments, no
maintenance). Has also been to "step-down units" and IOPs.
Current treaters and treatment:
- Psychiatrist Dr. ___ (___)
- Therapist ___ (___)
- Self-injury/Suicide attempts: Denies
- Harm to others: Denies
- Access to weapons: Denies
. 
PAST MEDICAL HISTORY:
Hyperlipidemia

 
Social History:
SUBSTANCE ABUSE HISTORY:
EtOH: Prior history of drinking ___ glasses of wine per night
Illicits: Use of cannabis and LSD in the ___
Tobacco: Denies
.
SOCIAL HISTORY: Per Dr. ___ ___ neuropsychiatric 
evaluation:
This patient was born in ___, ___ and raised in ___ 
___, ___ until ___ grade, at which 
point she remained in ___. Her father completed fourth grade 
and worked as a ___. He died at age ___ of a brain tumor. Her 
mother completed a ___ degree and worked as a ___. She
died at age ___ after an amputation of the leg. Ms. ___ was 
raised by both parents. She had one brother who died in ___ of 
a brain tumor. She denied any abuse or neglect during childhood. 
Ms. ___ was married for ___ years from ___ to ___, when she 
was divorced. She has since had several long-term relationships, 
one lasting ___ years, with the most recent lasting ___ years and
ending around her retirement. She has one daughter, ___, with 
whom she is close. 
. 
Educational history is notable for completion of a ___ 
degree from ___ in ___. Ms. 
___ described not having to put in much effort to achieve 
good grades in school. She began her undergraduate education 
after graduating from high school, but took a couple years off 
to have her daughter, and then returned to complete a bachelor's 
degree from ___ in ___. 
. 
Employment history is notable for several positions working with 
children with special education needs from ___ to ___. She was 
a ___ from ___ to ___ and then a ___-based mental 
health ___ and ___ for ___ years until her 
retirement in ___. 
.
FORENSIC HISTORY: ___
evaluation: Ms. ___ reported two arrests for civil 
disobedience in the 1980s. 

 
Family History:
Undiagnosed depression in father
 
Physical ___:
ON ADMISSION:
VS: ___ 1806 Temp: 98.2 PO BP: 138/87 HR: 80 RR: 16 O2 sat:
97% 

General:
 -HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
 -Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
 -Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: No rashes or lesions noted.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation. Note: patient is blind in 
her
right eye.
 ---III, IV, VI: EOMI without nystagmus
 ---V: Facial sensation intact to light touch in all
distributions
 ---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes in midline
 -Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
 no tremor. Strength ___ throughout.
 -Sensory: No deficits to fine touch throughout
 -DTRs: 2 and symmetrical throughout
 -Coordination: Normal on finger to nose test, no intention
tremor noted
 -Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
negative.

Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: attends to interview
 -Orientation: Oriented to person, time, place, situation
 -Executive function (go-no go, Luria, trails, FAS): Not tested
 -Memory: long-term and short-term memory grossly intact
 -Fund of knowledge: Consistent with education
 -Visuospatial: intact
 -Language: fluent

Mental Status:
 -Appearance: athletic elderly woman appearing her stated age,
neatly dressed in casual athletic clothing, short grey hair,
appropriate hygiene
 -Behavior: Sitting comfortably in her chair, appropriate eye
contact, some psychomotor retardation, no tremors or other
abnormal movements
 -Attitude: readily cooperative with interview
 -Mood: "empty"
 -Affect: constricted, dysphoric
 -Speech: somewhat slow and monotonous, normal volume
 -Thought process: linear, coherent, goal-oriented, no loose
associations
 -Thought Content:
 ---Safety: Denies active SI/HI but expresses occasional passive
SI
 ---Delusions: No evidence of paranoia, no other delusions
elicited
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, does not appear to be attending
to internal stimuli
 -Insight: Poor
 -Judgment: Fair

ON DISCHARGE:
Mental Status Exam:
Appearance: Fair grooming
Facial expression: anxious looking
build: WNL
Behavior: Engaging, cooperative, addressing questions
eye contact: Direct
psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone
Mood/affect: "I do not know what to do", sad, anxious, 
despondent
thought Process/content: Circumstantial, denies SI/HI, denies
AH/VH/delusions, obsessive negative thoughts
Intellectual Functioning: poor concentration
Oriented: x4
Memory: worsening
insight: Poor 
judgment: Fair

VS: T 98.1   BP 126 / 85   HR 94   rr 16   O2 sat 95   

 
Pertinent Results:
___ 12:46PM   %HbA1c-5.4 eAG-108
___ 12:33PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:30PM   GLUCOSE-90 UREA N-15 CREAT-0.7 SODIUM-140 
POTASSIUM-4.3 CHLORIDE-104 TOTAL CO2-22 ANION GAP-14
___ 12:30PM   estGFR-Using this
___ 12:30PM   CHOLEST-198
___ 12:30PM   VIT B12-469 FOLATE-18
___ 12:30PM   TRIGLYCER-189* HDL CHOL-53 CHOL/HDL-3.7 
LDL(CALC)-107
___ 12:30PM   TSH-1.3
___ 12:30PM   WBC-5.9 RBC-4.50 HGB-13.2 HCT-39.7 MCV-88 
MCH-29.3 MCHC-33.2 RDW-12.3 RDWSD-40.1
___ 12:30PM   NEUTS-62.6 ___ MONOS-7.6 EOS-0.8* 
BASOS-0.8 IM ___ AbsNeut-3.71 AbsLymp-1.66 AbsMono-0.45 
AbsEos-0.05 AbsBaso-0.05
___ 12:30PM   PLT COUNT-250
___ 12:30PM   PLT COUNT-250
 
Brief Hospital Course:
This is a ___ year old divorced, ___ level educated woman, 
currently unemployed, previously diagnosed with MDD, GAD, mild 
cognitive impairment, no prior suicide attempts, s/p numerous 
psychiatric hospitalizations and medication trials, who 
presented to ___ ED with her daughter for evaluation and 
management of ongoing significant depression with difficulty 
functioning on an outpatient setting; subsequently admitted to 
___ voluntarily for initiation of ECT. 
.
History notable for first depressive episode at the age of ___ 
with significant depression over the past ___ years since retiring 
in ___. Patient reports chronic feelings of emptiness, anxiety, 
lack of interest, and memory loss. Reported poor sleep with 
interruption in sleep. Mental status examination notable for a 
well groomed woman with good eye contact, depressed mood, 
slightly restricted affect, and thought process that is notably 
linear, logical, goal and future oriented.
. 
Diagnostically, etiology of presentation is unclear and likely 
multifactorial. She certainly meets DSM criteria for a major 
depressive episode, although presentation of first episode at 
age ___ is somewhat unusual. Although she has no history of 
mania, given the refractory nature of her depressive symptoms, I 
cannot rule out an underlying bipolar disorder. Her hospital 
course was notable for chronic irritabiltiy and devaluing 
remarks towards the staff that were concerning for underlying 
character pathology, but without a detailed developmental 
history (which she would not offer, stating, "I've already 
talked to people about this, what good is it?"), I cannot 
definitively diagnose. In addition, neurospych testing 
demonstrates some MCI, but this is confounded by her current 
depressive episode. Nothing in her history that would suggest an 
underlying substance use disorder is contributing to her current 
presentation. 
.
#. Legal/Safety: patient admitted to ___, upon 
admission, she signed a CV, which was accepted. She maintained 
her safety throughout her hospitalization on 15 minute checks 
and did not require physical or chemical restraints. 
. 
#. Depression: 
- Patient was compliant in attending groups and maintained 
adequate behavioral control during her hospitalization. 
- Remeron was continued at 45 mg po qhs; Quetiapine 150 mg po 
qhss was also continued without complaints of side effects 
- After discussion of the risks and benefits, we initiated 
Nortriptyline titrated to 50 mg po qhs. She tolerated this well 
without complaints of side effects. 
- For anxiety, Ativan was continued at 0.5 mg po qid prn without 
complaints of side effects
- BuSpar was initially continued at 20 mg po bid, but given 
apparent lack of efficacy and patient's strong desire to be on 
fewer medications, we initiated a taper of BuSpar from 20 mg po 
bid to 15 mg po bid to 10 mg po bid and d/c. She tolerated this 
decrease well without complaints of side effects. 
- After discussion of the risks and benefits, the patient was 
amenable to initiation of ECT. Following medical clearance, ECT 
was initiated and the patient received 3 treatments without 
complication. However, Ms. ___ repeatedly requested transfer 
to ___, stating she did not find Deaconess 4 helpful. Patient 
was accepted to ___ and transferred there to continue her 
treatment. 
- Of note, during her hospitalization, patient consistently 
denied SI or thoughts of self harm with no unsafe behaviors. In 
addition, she was able to attend to her ADL's independently with 
no evidence that she was unable to care for herself. 
.
#. GAD: as noted above 
- see above 
. 
#. HLD: lipid panel showed cholesterol= 198, Trig= 189. 
- Continued Atorvastatin 10 mg po qhs
.
#. Vitamin D Deficiency: 
- continued home dose of Vitamin D 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QHS hyperlipidemia 
2. Mirtazapine 45 mg PO QHS MDD 
3. Vitamin D ___ UNIT PO DAILY vitamin D deficiency 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. BusPIRone 20 mg PO BID anxiety 
6. QUEtiapine Fumarate 150 mg PO QHS insomnia 
7. LORazepam 0.5 mg PO QID:PRN anxiety 

 
Discharge Medications:
1.  Nortriptyline 50 mg PO QHS  
2.  Atorvastatin 10 mg PO QHS hyperlipidemia  
3.  Fish Oil (Omega 3) 1000 mg PO DAILY  
4.  LORazepam 0.5 mg PO QID:PRN anxiety  
5.  Mirtazapine 45 mg PO QHS MDD  
6.  QUEtiapine Fumarate 150 mg PO QHS insomnia  
7.  Vitamin D ___ UNIT PO DAILY vitamin D deficiency  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Major Depressive Disorder, recurrent, severe, without psychotic 
features
GAD 
R/O mild cognitive impairment 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
transfer to ___ hospital
 
Followup Instructions:
___